US06759557B2
5.0 g of cyclopentadecanone (MW 224, 22.3 mmol) were dissolved in 5.0 ml of ethanol, and hydrogenated sodium borate (MW 37.8, 2.5 g) was added thereto over 30 minutes. During this period, the temperature of the reaction mixture increased from 20° C. to 50° C. After reaction for one hour at 50° C., 50 ml of hexane and 50 ml of water were successively added, and the reaction was terminated. The reaction mixture was separated into an aqueous phase and an organic phase. The organic phase was washed twice with water and the solvent was removed under reduced pressure to yield a crude product. 4.57 g of crude product were purified on a silica gel column chromatograph (internal diameter 25 mm×height 190 mm, silica gel 60 manufactured by Nakalai Tesque Co. Ltd.) using hexane:ethyl acetate (9:1, v/v), to give 2.35 g of cyclopentadecanol having a purity of 99.3%.

reactant | cyclopentadecanone | 22.3 mmol, 5.0 g | C1(CCCCCCCCCCCCCC1)=O | C15H28O
reactant | hexane | 50 ml | CCCCCC | C6H14
reactant | water | 50 ml | O | H2O
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | cyclopentadecanol | 2.35 g | C1(CCCCCCCCCCCCCC1)O | C15H30O
